US05104989
(S)-(-)-N-1-Phenylethyl-N-(octyloxymethyl)trimethylsilyl methylamine (IV, R1 =H, R2 =Me, R3 =Ph, R4 =Octyl)
The title compound was prepared from (S)-(-)-N-1-phenylethyl-N-trimethylsilylmethylamine by reaction with n-octanol and aqueous formaldehyde following the procedure of Example 2 to give the crude acetal (90% pure) as a colourless oil (9.1 g, 91%) δC (CD2Cl2)-1.28 (SiMe3), 14.29, 23.08, 30.31, 29.74, 29.89, 26.82, 33.32, 63.13 (O Octyl), 19.37 (CMe), 40.11 (NCH2Si), 62.10 (CH), 84.69 (NCH2O), 126.82, 127.96, 128.31, 145.95 (Ph).

reactant | (S)-(-)-N-1-phenylethyl-N-trimethylsilylmethylamine | C1(=CC=CC=C1)[C@H](C)NC[Si](C)(C)C | C12H21NSi
reactant | formaldehyde | C=O | CH2O
solvent | n-octanol | C(CCCCCCC)O | C8H18O
product | (S)-(-)-N-1-Phenylethyl-N-(octyloxymethyl)trimethylsilyl methylamine | C1(=CC=CC=C1)[C@H](C)N(COCCCCCCCC)C[Si](C)(C)C | C21H39NOSi
